datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:18])[H:19])[H:17])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([H:16])=[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:14])([H:12])[H:13],141.043
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[O:12][H:13]>>[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6].[H:4][O:12][H:13],-6.23416
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5](=[O:6])[C:7]([O:8][O:9])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[O:1])[H:3].[H:2][O:9][O:8][C:7]([C:5]([C:4]([H:10])([H:11])[H:12])=[O:6])([H:13])[H:14],37.656
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31][H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:20][O:30][O:31][H:32],62.751632
[C:0]([C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])=[O:9])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([H:13])[H:14])([H:11])[H:12].[O:2]=[C:3]([O:4][H:10])[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])=[O:9])([H:17])[H:18])([H:15])[H:16],207.183312
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:9]([C:8]([C:7](=[C:6]([H:16])[H:17])[H:18])[H:19])([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:20])[H:3],38.2836
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])[H:6],49.1202
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:7](=[C:8]=[C:9]([H:11])[H:12])[H:10],48.116
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:11])([H:12])[H:13])=[O:5])([H:6])[H:7].[C:14]([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([C:4]([H:12])[H:13])=[O:5])([H:6])[H:7].[H:11][C:14]([H:15])([H:16])[H:17],40.29192
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15][O:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][O:15][O:16],207.69376
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13][C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13](=[C:12]([H:15])[H:16])[C:14]([H:17])([H:18])[H:19],-22.1752
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][O:24][H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[H:7][O:23][O:24][H:25],68.99416
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26])([H:6])([H:7])[H:8],47.321
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21],53.9736
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[C:10]([c:11]1[c:12]([H:27])[c:13]([H:28])[c:14]([H:29])[c:15]([H:30])[c:16]1[H:31])[H:26])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:9]([C:8]([H:23])([H:24])[H:25])([C:10]([c:11]1[c:12]([H:27])[c:13]([H:28])[c:14]([H:29])[c:15]([H:30])[c:16]1[H:31])[H:26])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])([H:3])[H:4],18.1586
